US04894386
Lithium hydroxide monohydrate (4.6 g) was added to a stirred solution of methyl E-indole-6-acrylate (5.5 g) in methanol (100 ml), tetrahydrofuran (10 ml), and water (10 ml) under an atmosphere of nitrogen; and the mixture was heated at 50° for 5 hr. The cooled mixture was diluted with water (100 ml) and acidified to pH 4 with 6M hydrochloric acid. The precipitate which formed was isolated by filtration, washed twice with water, and dried to give E-indole-6-acrylic acid (5 g, 97%) as a yellow powder; mp 215°-217°; partial NMR (250 MHz, DMSO-d6): 6.42(d, J=15.9 Hz, 1H, olefinic H), 6.47(m, 1H, H3 -indole), 7.70(d, J=15.9 Hz, 1H, olefinic H), 11.35(br s, 1H, NH), 12.18(br s, 1H, COOH).

reactant | Lithium hydroxide monohydrate | 4.6 g | O.[OH-].[Li+]
reactant | methyl E-indole-6-acrylate | 5.5 g | N1C=CC2=CC=C(C=C12)/C=C/C(=O)OC | C12H11NO2
reactant | hydrochloric acid | 6M | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | E-indole-6-acrylic acid | 5 g, 97% | N1C=CC2=CC=C(C=C12)/C=C/C(=O)O | C11H9NO2
